US05502226
A 100 mL three neck round bottom flask, equipped with a stir bar, thermometer and a Dean-Stark trap, was charged with 10 g (55 mmoles) of cyclododecanone, 6.7 g (77 mmoles) of morpholine, 40 mL of anhydrous toluene and a catalytic amount of p-toluenesulfonic acid monohydrate. The reaction mixture was refluxed for 48-77 hours. The toluene was removed under vacuum, and the reaction mixture was vacuum distilled to give 5.7 g of N-morpholino-1-cyclododecene (at 160°-168° C./0.5mm) as a 95% pure clear liquid.

reactant | cyclododecanone | 55 mmoles, 10 g | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | morpholine | 77 mmoles, 6.7 g | N1CCOCC1 | C4H9NO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-morpholino-1-cyclododecene | 5.7 g | C1CCCCC/C(=C\CCCC1)/N2CCOCC2 | C16H29NO
